US07671238B2
To a solution of trans-4-chlorocinnamic acid (10 g, 55 mmol) in ethanol (60 mL) was added a catalytic amount of concentrated sulfuric acid (2-3 drops), and the mixture was heated (70° C.) until a majority of the starting material was consumed as evidenced by LCMS. The reaction mixture was concentrated and the contents were redissolved in ethyl acetate. The organic phase was extracted with an aqueous solution of sodium bicarbonate (5%, 3×) followed by a brine wash. The organic phase was dried (MgSO4), filtered and concentrated to afford trans-4-chlorocinnamic acid ethyl ester as a colorless oil. MS (ESI) m/z 211.1 ([M+H]+).

reactant | trans-4-chlorocinnamic acid | 55 mmol, 10 g | ClC1=CC=C(/C=C/C(=O)O)C=C1 | C9H7ClO2
reactant | ethanol | 60 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 2-3 drops | S(O)(O)(=O)=O | H2O4S
product | trans-4-chlorocinnamic acid ethyl ester | C(C)OC(\C=C\C1=CC=C(C=C1)Cl)=O | C11H11ClO2
